US05514691
A solution of 5-amino-4-bromo-3-methylisoxazole (354 mg, 2.0 mmol) in dry THF (1 ml) was added to a suspension of sodium hydride (60% dispersion in mineral oil, 188 mg, 4.4 mmol)in dry THF (1 ml) at 0°-5° C. After stirring at 0°-5° C. for 10 min., the reaction was warmed to room temperature for 10 min. to complete the reaction. The reaction mixture was re-cooled to 0° C. and benzenesulfonyl chloride (0.283 ml, 2.2 mmol) was added slowly. Stirring was continued for 20 min. at 0°-5° C. Excess sodium hydride was decomposed by addition of methanol (0.4 ml) followed by water (0.5 ml). The solvent was removed under reduced pressure. The residue was dissolved in water (20 ml), basified to pH 8-9 by the addition of sodium hydroxide and extracted with ethyl acetate (2×10 ml) to remove the neutral impurities. The aqueous layer was acidified with concentrate HCl (pH 2-3) and extracted with ethyl acetate (3×10 ml) The combined organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide. The pure material was obtained by recrystallization using hexanes/ethyl acetate (0.59 g, 93% yield), m.p. 142°-144° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | 2.0 mmol, 354 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | sodium hydride | 4.4 mmol, 188 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 2.2 mmol, 0.283 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | methanol | 0.4 ml | CO | CH4O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | BrC=1C(=NOC1NS(=O)(=O)C1=CC=CC=C1)C | C10H9BrN2O3S
